US04207320
3-Butyl-10-(1-piperidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide.
A mixture of 4.7 g. of 3-butyl-10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide, 5.0 ml. of piperidine and 50 ml. of N-methyl-2-pyrrolidinone is heated at reflux for 16 hours, then cooled and diluted with 400 ml. of ether. The resulting precipitate of 3-butyl-10-(1-piperidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration; m.p. 266°-267° C. (dec.), after crystallization from ethanol.

reactant | 3-butyl-10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide | [I-].C(CCC)C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)F
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
solvent | ether | CCOCC | C4H10O
product | 3-Butyl-10-(1-piperidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].C(CCC)C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)N1CCCCC1 | InChI=1S/C28H30N3.HI/c1-2-3-7-21-8-13-26-22(18-21)10-15-28-30(26)20-25-11-9-23-19-24(12-14-27(23)31(25)28)29-16-5-4-6-17-29;/h8-15,18-20H,2-7,16-17H2,1H3;1H/q+1;/p-1
